US06551682B1
(14) Production of 10-(4-phenyl-2-thiazolylazo)-9-phenanthrol (No. L78)
A reaction flask was loaded with water (3.4 ml), a 98% aqueous solution of sulfuric acid (7.2 ml), 2-amino-4-phenylthiazol (1.66 g) and formic acid (1.6 ml) successively, followed by stirring to dissolve 2-amino-4-phenylthiazol. The liquid was cooled to 0° C., followed by dropwise addition of a solution in which sodium nitrite (0.47 g) was dissolved in water (2 ml) to the mixture in 10 minutes. After stirring at or below 5° C. for one hour, a solution in which 9-phenanthrol (3.2 g) was dissolved in ethanol (30 ml) was dropwise added to the mixture in one hour. The cooling was stopped and the reaction mixture at room temperature was filtrated to give crystals. The crystals were recrystallized with dioxane-methanol to give intended crystals (1.7 g).

reactant | sulfuric acid | 7.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-amino-4-phenylthiazol | 1.66 g | NC=1SC=C(N1)C1=CC=CC=C1 | C9H8N2S
reactant | formic acid | 1.6 ml | C(=O)O | CH2O2
reactant | sodium nitrite | 0.47 g | N(=O)[O-].[Na+]
reactant | 9-phenanthrol | 3.2 g | C1=CC=CC=2C3=CC=CC=C3C(=CC12)O | C14H10O
solvent | water | 2 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 3.4 ml | O | H2O
product | 10-(4-phenyl-2-thiazolylazo)-9-phenanthrol | C1(=CC=CC=C1)C=1N=C(SC1)N=NC1=C(C2=CC=CC=C2C=2C=CC=CC12)O | C23H15N3OS
